US04785016
(i) 4-(dimethylamino)butanone (4-iodophenyl)hydrazone
A solution of 4-iodophenylhydrazine (2 g) in water (70 ml) and 2N hydrochloric acid (4 ml) was stirred at room temperature with 4-dimethylaminobutanal, diethyl acetal (2.6 g) for 3 h. The resulting solution was partitioned between sodium bicarbonate (50 ml) and ethyl acetate (2×50 ml). The combined organic extracts were dried (Na2SO4) and evaporated in vacuo to give an oil (2.3 g), which was used directly in the next stage.

reactant | 4-iodophenylhydrazine | 2 g | IC1=CC=C(C=C1)NN | C6H7IN2
reactant | 4-dimethylaminobutanal | CN(CCCC=O)C | C6H13NO
solvent | water | 70 ml | O | H2O
solvent | hydrochloric acid | 2N, 4 ml | Cl | ClH
product | 4-(dimethylamino)butanone (4-iodophenyl)hydrazone | 2.3 g | IC1=CC=C(C=C1)NN=C(C)CCN(C)C | C12H18IN3
